US07332508B2
2-(4-{3-[1-(1-Ethylpropyl)piperidin-4-ylmethyl][1,2,4]oxadiazol-5-yl}benzyl)-1, 2,3,4-tetrahydroisoquinoline, Dihydrochloride
The title compound was prepared by a similar procedure to that described in Example 23, starting from 4-[5-(4-(chloromethyl)phenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-(1-ethylpropyl)piperidine and 1,2,3,4-tetrahydroisoquinoline.

reactant | 4-[5-(4-(chloromethyl)phenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-(1-ethylpropyl)piperidine | ClCC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C(CC)CC | C20H28ClN3O
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 2-(4-{3-[1-(1-Ethylpropyl)piperidin-4-ylmethyl][1,2,4]oxadiazol-5-yl}benzyl)-1, 2,3,4-tetrahydroisoquinoline, Dihydrochloride | Cl.Cl.C(C)C(CC)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(CN2CC3=CC=CC=C3CC2)C=C1 | InChI=1S/C29H38N4O.2ClH/c1-3-27(4-2)33-17-13-22(14-18-33)19-28-30-29(34-31-28)25-11-9-23(10-12-25)20-32-16-15-24-7-5-6-8-26(24)21-32;;/h5-12,22,27H,3-4,13-21H2,1-2H3;2*1H
